US07220760B2
A solution of N-(1-benzyl-2-methyl-1,2-dihydroquinolin-4-yl)-N-phenylacetamide (100 mg) and (R,R)-(−)-1,2-bis[(o-methoxyphenyl)(phenyl)phosphino]ethane(1,5-cyclooctadiene)rhodium (I) tetrafluoroborate (20 mg) in methanol (6 ml) was stirred under 20 bars of hydrogene overnight. Dichloromethane was added and the organic layer was washed by water and dried over sodium sulfate. The solvent was removed and the mixture was purified by chromatography on silica gel (dichloromethane/ethanol (99:1)) to afford N-(1-benzyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-phenylacetamide (80 mg).

reactant | N-(1-benzyl-2-methyl-1,2-dihydroquinolin-4-yl)-N-phenylacetamide | 100 mg | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)N(C(C)=O)C1=CC=CC=C1)C | C25H24N2O
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 6 ml | CO | CH4O
catalyst | (R,R)-(−)-1,2-bis[(o-methoxyphenyl)(phenyl)phosphino]ethane(1,5-cyclooctadiene)rhodium (I) tetrafluoroborate | 20 mg | [B-](F)(F)(F)F.COC1=CC=CC=C1[P@@](C2=CC=CC=C2)CC[P@@](C3=CC=CC=C3OC)C4=CC=CC=C4.C1/C=C\CC/C=C\C1.[Rh]
product | N-(1-benzyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-phenylacetamide | 80 mg | C(C1=CC=CC=C1)N1C(CC(C2=CC=CC=C12)N(C(C)=O)C1=CC=CC=C1)C | C25H26N2O
